US04173649
A. 5-(Dimethylamino)-1-phenyl-1-penten-3-one, hydrochloride (1:1)
trans-4-Phenyl-3-buten-2-one (14.6 g, 0.1 mole), dimethylamine hydrochloride (9.0 g, 0.1 mole) and paraformaldehyde (5.8 g, 0.2 mole) are heated at reflux in 150 ml of absolute ethanol for 3 hours. The reaction mixture is concentrated in vacuo, then washed with ether. Addition of ethyl acetate causes crystallization. The product is recrystallized from acetonitrile to yield 6.9 g, m.p. 150°-154° C.

reactant | trans-4-Phenyl-3-buten-2-one | 0.1 mole, 14.6 g | C1(=CC=CC=C1)/C=C/C(C)=O | C10H10O
reactant | dimethylamine hydrochloride | 0.1 mole, 9.0 g | Cl.CNC
reactant | paraformaldehyde | 0.2 mole, 5.8 g | C=O | CH2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-(Dimethylamino)-1-phenyl-1-penten-3-one, hydrochloride | Cl.CN(CCC(C=CC1=CC=CC=C1)=O)C | InChI=1S/C13H17NO.ClH/c1-14(2)11-10-13(15)9-8-12-6-4-3-5-7-12;/h3-9H,10-11H2,1-2H3;1H
